US04016165
In the manner given in Example 1, 7-chloro-2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine can be reacted with α-chloroacetaldehyde to give 7-chloro-2-[(2-chloroethylidene)hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2)Cl)C1 | C15H12Cl2N4
reactant | α-chloroacetaldehyde | ClCC=O | C2H3ClO
product | 7-chloro-2-[(2-chloroethylidene)hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=CCCl)C2=C(C=CC=C2)Cl)C1 | C17H13Cl3N4
